US06046232
Synthesis of α-(3-Ethoxy-4-methoxyphenyl)-N-cyclohexylnitrone
The title compound was prepared according to the procedure described in Example 11 using 3-ethoxy-4-methoxybenzaldehyde and N-cyclohexylhydroxylamine. The title compound was isolated in 57% yield as a solid, m.p. 113.5° C.

reactant | 3-ethoxy-4-methoxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1OC | C10H12O3
reactant | N-cyclohexylhydroxylamine | C1(CCCCC1)NO | C6H13NO
product | α-(3-Ethoxy-4-methoxyphenyl)-N-cyclohexylnitrone | C(C)OC=1C=C(C=CC1OC)C=[N+]([O-])C1CCCCC1 | C16H23NO3
